US04612314
A mixture of 1.306 g of 9-(1,3-dihydroxy-2-propoxymethyl)guanine, 150 mg of 4-dimethylaminopyridine, and 50 ml of 2,2-dimethylpropanoic acid anhydride and dry dimethylformamide (75 ml) was vigorously stirred for 2 days. The dimethylformamide was removed by evaporation at reduced pressure, and 200 ml of ethyl ether were added to the residue. After cooling to 0° C., the precipitate was isolated by filtration and recrystallized from methanol to give 1.83 g of 9-(1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl)guanine, m.p. 230°-232°.

reactant | 9-(1,3-dihydroxy-2-propoxymethyl)guanine | 1.306 g | OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O4
reactant | 2,2-dimethylpropanoic acid anhydride | 50 ml | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
catalyst | 4-dimethylaminopyridine | 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 9-(1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl)guanine | 1.83 g | CC(C(=O)OCC(COC(C(C)(C)C)=O)OCN1C=2N=C(NC(C2N=C1)=O)N)(C)C | C19H29N5O6
